US08703784B2
To tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate (2 g, 2.7 mmol) in dioxane (22 mL) and H2O (5.5 mL) was added 2-phenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (1.2 g, 4.1 mmol), PdCl2(dppf).CH2Cl2 (0.3 g, 0.3 mmol) and K2CO3 (1.2 g, 8.2 mmol). The reaction was heated at 100° C. for 15 hours, at which time LC/MS analysis confirmed full consumption of starting material. On cooling, H2O (40 ml) and EtOAc (100 mL) were added and organics were extracted with EtOAc (2×75 ml), dried (Na2SO4) and concentrated in vacuo to crude. Gradient column chromatography on silica eluting with 0 to 50% EtOAc/hexanes gave tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate (1.8 g, 86%).

reactant | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 2.7 mmol, 2 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H52IN5O4Si2
reactant | 2-phenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 4.1 mmol, 1.2 g | C1(=CC=CC=C1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H20BNO2
reactant | CH2Cl2 | 0.3 mmol, 0.3 g | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 8.2 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5.5 mL | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 1.8 g, 86% | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C41H60N6O4Si2
